US05504056
6-hydroxymethyl-3-(4-chloro-2-nitrobenzoyl)-tetrahydropyran-2,4-dione (Compound No. II-1)
To 10 ml of ethanol was dissolved 1.50 g (4.1 mmole) of 6-acetoxymethyl-3-(4-chloro-2-nitrobenzoyl)-tetrahydropyran-2,4-dione, then 8.0 ml of 1N aqueous solution of sodium hydroxide was added thereto to react for 1 hour at room temperature. The solution for the reaction was poured into ice water, acidified with diluted hydrochloric acid, then extracted with chloroform. The organic solvent layer extracted was washed with water and saturated brine in turn, dried with magnesium sulfate, and the solvent therein was distilled. The resulting crystals were washed with methanol, then 0.90 g of the objective product was obtained in whitish crystals. The melting point thereof was from 135° to 137° C.

reactant | 6-acetoxymethyl-3-(4-chloro-2-nitrobenzoyl)-tetrahydropyran-2,4-dione | 4.1 mmole, 1.50 g | C(C)(=O)OCC1CC(C(C(O1)=O)C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)=O | C15H12ClNO8
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-hydroxymethyl-3-(4-chloro-2-nitrobenzoyl)-tetrahydropyran-2,4-dione | 0.90 g | OCC1CC(C(C(O1)=O)C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)=O | C13H10ClNO7
